US08258119B2
Synthesis of 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylic acid (Compound 8)
To a solution of methyl 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylate (1.8 g, 6.22 mmol) in methanol (50 mL) was added a solution of sodium hydroxide (1.24 g, 31.1 mmol) in water (15 mL) and stirred at rt for 16 h. The mixture was diluted with ice cold water and acidified with dil. HCl. The mixture was stirred for 30 min and the precipitated solid was filtered, washed with water and dried. The solid was chromatographed over silica gel column using hexane-ethyl acetate (70:30) as eluents to give the product. The crude solid was recrystallized from hexane-chloroform to give the product as a pale pink color solid (1.1 g, 61%), mp 162-166° C. IR (neat)νmax. 2923, 2853, 1708, 1260, 1220, 1173, 1042, 1020, 879, 836 cm−1; 1H NMR (400 MHz, CDCl3): δ 12.15 (1H, br s), 7.58-7.60 (2H, m), 7.44 (1H, s), 7.32-7.40 (3H, m), 3.65 (3H, s), 3.25 (3H, s); 13C NMR (100 MHz, CDCl3): δ 162.8, 153.3, 149.7, 133.3, 129.1, 129.0, 125.9, 120.1, 113.4, 44.3, 37.0; LC-MS (positive ion mode): m/z 298 (M+Na)+.

reactant | methyl 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylate | 6.22 mmol, 1.8 g | CN(C)N=NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C14H15N3O2S
reactant | sodium hydroxide | 31.1 mmol, 1.24 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylic acid | 1.1 g, 61% | CN(C)N=NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C13H13N3O2S
